US07875609B2
1 g (5.26 mmol, 1 eq.) of 5-(3-nitrophenyl)oxazole and 10 mL of TFA are introduced into a 1 L flask. 1 g of zinc is carefully added in a plurality of batches. The mixture is stirred for 2 hours at room temperature then is poured over ice. Sodium hydroxide is slowly added until the medium becomes basic, and the medium is extracted with diethyl ether. The organic phase is washed with a 1 M solution of HCl and the impurities are extracted with diethyl ether. The aqueous phase is again basified with sodium hydroxide and the product is extracted with diethyl ether. The organic phases are combined, dried over MgSO4 and filtered. After concentration to dryness, 700 mg (yield=83%) of aniline 3-oxazol-5-yl-phenylamine are obtained, in the form of a beige solid. The product is used without subsequent purification.

reactant | 5-(3-nitrophenyl)oxazole | 5.26 mmol, 1 g, 1 eq. | [N+](=O)([O-])C=1C=C(C=CC1)C1=CN=CO1 | C9H6N2O3
reactant | Sodium hydroxide | [OH-].[Na+]
catalyst | zinc | 1 g | [Zn] | Zn
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | aniline 3-oxazol-5-yl-phenylamine | 700 mg, yield=83% | O1C=NC=C1C=1C=C(C=CC1)N.NC1=CC=CC=C1 | InChI=1S/C9H8N2O.C6H7N/c10-8-3-1-2-7(4-8)9-5-11-6-12-9;7-6-4-2-1-3-5-6/h1-6H,10H2;1-5H,7H2
